US04822787
To a solution of allyl (4R)-2-diazo-4-[(2R,3S)-3-{(1R)-1-hydroxyethyl}-4-oxoazetidin-2-yl]-3-oxopentanoate (0.5 g) in dichloromethane (10 ml) was added rhodium(II) octanoate (13.2 mg) under reflux. After refluxing for 20 minutes, to the solution was added rhodium(II) octanoate (13.2 mg). The mixture was refluxed for 40 minutes. The reaction mixture was cooled and evaporated in vacuo to give a residue. The residue was dissolved in anhydrous acetonitrile (10 ml) and then evaporated. This operation was repeated once again and the resulting residue was dried in vacuo to give allyl (4R,5R,6S)-6-[(1R)-1-hydroxyethyl]-4-methyl-3,7-dioxo-1-azabicyclo-[3.2.0]heptane-2-carboxylate. The residue containing the compound obtained above was dissolved in anhydrous acetonitrile (10 ml) and cooled to 0°-2° C. under an atmosphere of nitrogen. To this solution were added diphenyl phosphorochloridate (0.53 ml) and N,N-diisopropyl-N-ethylamine (0.47 ml) successively and the solution was stirred at 0°-2° C. for 40 minutes. To the resulting solution were added dropwise a solution of (2S,4S)-1-allyloxycarbonyl-4-mercapto-2-[(2-ureidoethyl)oxymethyl]pyrrolidine (0.62 g) in acetonitrile (10 ml) and N,N-diisopropyl-N-ethylamine (0.38 ml) successively with stirring at 2°-5° C., and the stirring was continued at the same temperature for 2 hours. To a reaction mixture was added ethyl acetate (30 ml) and water (10 ml) with stirring, and the organic layer was separated. This layer was washed with saturated aqueous sodium chloride solution (30 ml×2), dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel (50 g) eluting with a mixture of chloroform and methanol (9:1 V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give allyl (4R,5S,6S)-3-[(2S, 4S)-1-allyloxycarbonyl-2-{(2-ureidoethyl)oxymethyl}-pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (160 mg).

reactant | allyl (4R)-2-diazo-4-[(2R,3S)-3-{(1R)-1-hydroxyethyl}-4-oxoazetidin-2-yl]-3-oxopentanoate | 0.5 g | [N+](=[N-])=C(C(=O)OCC=C)C([C@H](C)[C@H]1NC([C@@H]1[C@@H](C)O)=O)=O | C13H17N3O5
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
catalyst | rhodium(II) octanoate | 13.2 mg | C(CCCCCCC)(=O)[O-].[Rh+2].C(CCCCCCC)(=O)[O-]
catalyst | rhodium(II) octanoate | 13.2 mg | C(CCCCCCC)(=O)[O-].[Rh+2].C(CCCCCCC)(=O)[O-]
product | allyl (4R,5R,6S)-6-[(1R)-1-hydroxyethyl]-4-methyl-3,7-dioxo-1-azabicyclo-[3.2.0]heptane-2-carboxylate | O[C@H](C)[C@@H]1[C@H]2[C@H](C(C(N2C1=O)C(=O)OCC=C)=O)C | C13H17NO5
